US20010025039A1
2,3-Dihydro-1H-3a,6-diaza-cyclopenta[a]indene
To a solution of 4-Amino-3-iodopyridine (2.2 g, 10.00 mMol) in acetonitrile (25 ml), was added dropwise trifluoroacetic anhydride (2.53 g, 1.674 ml) at 0° C. followed by addition of potassium carbonate (4.14 g, 30 mMol). The mixture was stirred at room temperature for 10 min. To the resulting suspension was added bis(triphenylphosphine)-palladium(II)chloride (0.175 g, 0.25 mMol), copper(I)iodide (0.095 g, 0.50 mMol) and 5-chloro-1-pentyne (1.23 g, 12.00 mMol) and the mixture was heated to reflux under argon for 3 h. The mixture was cooled to room temperature and partitioned between water and ethyl acetate. The phases were separated. The organic phase was extracted with water at pH 1.00. The acidic aqueous phase was mixed with dichloromethane and the pH was raised to 10 by addition of 2N NaOH. The phases were separated and the organic phase was dried over sodium sulfate. The solvent was evaporated and the residue was taken up in acetonitrile (20 ml). To the brownish solution was added sodium iodide (3.00 g, 20 mMol) and sodium hydride (ca 55% 0.873 g, 20 mMol) and the mixture was stirred at room temperature for 2 h. The mixture was poured onto ice and partitioned between water and ethyl acetate (100 ml water 100 ml ethyl acetate). The phases were separated. The organic phase was extracted with water at pH 1.00 (5×50 ml). The combined acidic aqueous phases were mixed with dichloromethane (100 ml) and the pH was raised to 10 by addition of 2N NaOH. The phases were separated and the organic phase was dried over sodium sulfate. The solvent was evaporated and the title compound (0.81 g, 51% of theory) was obtained as a brownish solid. For analytical purposes a sample was recrystallised from t-butylmethylether to afford light brown crystals melting at 95-96° C.; Found C, 75.93; H. 6.32; N,17.80%. C10H10N2 requires: C, 75.92; H, 6.37; N, 17.71%

reactant | 4-Amino-3-iodopyridine | 10.00 mMol, 2.2 g | NC1=C(C=NC=C1)I | C5H5IN2
reactant | trifluoroacetic anhydride | 1.674 ml, 2.53 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium carbonate | 30 mMol, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloro-1-pentyne | 12.00 mMol, 1.23 g | ClCCCC#C | C5H7Cl
reactant | sodium iodide | 20 mMol, 3.00 g | [I-].[Na+]
reactant | sodium hydride | 20 mMol, 0.873 g | [H-].[Na+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)-palladium(II)chloride | 0.25 mMol, 0.175 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.50 mMol, 0.095 g | [Cu]I
product | 2,3-Dihydro-1H-3a,6-diaza-cyclopenta[a]indene | 0.81 g, 51% | C1CCN2C1=CC=1C=NC=CC21 | C10H10N2
